* NGSPICE file created from lab1.ext - technology: sky130A

* Black-box entry subcircuit for sky130_ef_sc_hd__decap_12 abstract view
.subckt sky130_ef_sc_hd__decap_12 VPWR VGND VPB VNB
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_3 abstract view
.subckt sky130_fd_sc_hd__decap_3 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__buf_2 abstract view
.subckt sky130_fd_sc_hd__buf_2 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_8 abstract view
.subckt sky130_fd_sc_hd__decap_8 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_4 abstract view
.subckt sky130_fd_sc_hd__decap_4 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__tapvpwrvgnd_1 abstract view
.subckt sky130_fd_sc_hd__tapvpwrvgnd_1 VGND VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_2 abstract view
.subckt sky130_fd_sc_hd__fill_2 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__clkbuf_1 abstract view
.subckt sky130_fd_sc_hd__clkbuf_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nor2_1 abstract view
.subckt sky130_fd_sc_hd__nor2_1 A B VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_1 abstract view
.subckt sky130_fd_sc_hd__fill_1 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__and2_1 abstract view
.subckt sky130_fd_sc_hd__and2_1 A B VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__xor2_1 abstract view
.subckt sky130_fd_sc_hd__xor2_1 A B VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__o31ai_1 abstract view
.subckt sky130_fd_sc_hd__o31ai_1 A1 A2 A3 B1 VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__or4_1 abstract view
.subckt sky130_fd_sc_hd__or4_1 A B C D VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__dlymetal6s2s_1 abstract view
.subckt sky130_fd_sc_hd__dlymetal6s2s_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__buf_1 abstract view
.subckt sky130_fd_sc_hd__buf_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_6 abstract view
.subckt sky130_fd_sc_hd__decap_6 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__xnor2_1 abstract view
.subckt sky130_fd_sc_hd__xnor2_1 A B VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__and2b_1 abstract view
.subckt sky130_fd_sc_hd__and2b_1 A_N B VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__or4_2 abstract view
.subckt sky130_fd_sc_hd__or4_2 A B C D VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__o31a_1 abstract view
.subckt sky130_fd_sc_hd__o31a_1 A1 A2 A3 B1 VGND VNB VPB VPWR X
.ends

.subckt lab1 VGND VPWR in[0] in[1] in[2] in[3] in[4] in[5] in[6] in[7] out[0] out[1]
+ out[2] out[3] out[4] out[5] out[6] out[7]
XFILLER_0_3_39 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_0_29 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_4_Left_14 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xoutput10 net10 VGND VGND VPWR VPWR out[1] sky130_fd_sc_hd__buf_2
XPHY_EDGE_ROW_6_Right_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_6_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_0_6_29 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_9_29 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_1_30 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
Xoutput9 net9 VGND VGND VPWR VPWR out[0] sky130_fd_sc_hd__buf_2
Xoutput11 net11 VGND VGND VPWR VPWR out[2] sky130_fd_sc_hd__buf_2
XFILLER_0_7_62 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_7_51 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_0_4_41 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XTAP_TAPCELL_ROW_5_26 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
Xoutput12 net12 VGND VGND VPWR VPWR out[3] sky130_fd_sc_hd__buf_2
XFILLER_0_1_42 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_7_74 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_4_53 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_8_Left_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_1_54 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
Xoutput13 net13 VGND VGND VPWR VPWR out[4] sky130_fd_sc_hd__buf_2
XFILLER_0_0_9 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_4_65 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_27_ net1 VGND VGND VPWR VPWR net9 sky130_fd_sc_hd__clkbuf_1
Xoutput14 net14 VGND VGND VPWR VPWR out[5] sky130_fd_sc_hd__buf_2
XFILLER_0_7_3 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_26_ _00_ _09_ VGND VGND VPWR VPWR net10 sky130_fd_sc_hd__nor2_1
Xoutput15 net15 VGND VGND VPWR VPWR out[6] sky130_fd_sc_hd__buf_2
XPHY_EDGE_ROW_1_Right_1 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_8_29 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_7_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_25_ net2 net1 VGND VGND VPWR VPWR _09_ sky130_fd_sc_hd__and2_1
XFILLER_0_1_57 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
Xoutput16 net16 VGND VGND VPWR VPWR out[7] sky130_fd_sc_hd__buf_2
X_24_ net8 _06_ VGND VGND VPWR VPWR net16 sky130_fd_sc_hd__xor2_1
XTAP_TAPCELL_ROW_0_20 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_1_69 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XTAP_TAPCELL_ROW_9_30 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_0_21 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_5_3 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_3_Left_13 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_23_ _08_ VGND VGND VPWR VPWR net15 sky130_fd_sc_hd__clkbuf_1
XPHY_EDGE_ROW_5_Right_5 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_22_ _06_ _07_ VGND VGND VPWR VPWR _08_ sky130_fd_sc_hd__and2_1
XTAP_TAPCELL_ROW_9_31 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_7_15 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_4_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_21_ net5 net6 _02_ net7 VGND VGND VPWR VPWR _07_ sky130_fd_sc_hd__o31ai_1
XFILLER_0_7_27 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_3_3 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_20_ net5 net6 net7 _02_ VGND VGND VPWR VPWR _06_ sky130_fd_sc_hd__or4_1
Xinput1 in[0] VGND VGND VPWR VPWR net1 sky130_fd_sc_hd__dlymetal6s2s_1
XFILLER_0_1_18 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_2_61 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_7_Left_17 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_9_Right_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_7_39 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XTAP_TAPCELL_ROW_3_24 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_4_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_4_29 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
Xinput2 in[1] VGND VGND VPWR VPWR net2 sky130_fd_sc_hd__buf_1
XFILLER_0_2_73 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_0_5_51 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
Xinput3 in[2] VGND VGND VPWR VPWR net3 sky130_fd_sc_hd__buf_1
XPHY_EDGE_ROW_0_Right_0 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_5_63 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
Xinput4 in[3] VGND VGND VPWR VPWR net4 sky130_fd_sc_hd__buf_1
XFILLER_0_8_63 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XTAP_TAPCELL_ROW_6_27 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
Xinput5 in[4] VGND VGND VPWR VPWR net5 sky130_fd_sc_hd__buf_1
XFILLER_0_5_43 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
Xinput6 in[5] VGND VGND VPWR VPWR net6 sky130_fd_sc_hd__buf_1
XFILLER_0_2_11 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_2_Left_12 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_2_33 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_8_32 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_8_21 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XPHY_EDGE_ROW_4_Right_4 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_1_6 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
Xinput7 in[6] VGND VGND VPWR VPWR net7 sky130_fd_sc_hd__clkbuf_1
XFILLER_0_5_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_2_23 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_0_8_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_0_8_44 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_0_5_78 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xinput8 in[7] VGND VGND VPWR VPWR net8 sky130_fd_sc_hd__buf_1
XFILLER_0_5_57 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_6_Left_16 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_8_79 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XPHY_EDGE_ROW_8_Right_8 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_2_37 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_3_80 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XTAP_TAPCELL_ROW_1_22 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_5_15 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_2_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_2_49 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_19_ net6 _04_ VGND VGND VPWR VPWR net14 sky130_fd_sc_hd__xnor2_1
XFILLER_0_9_80 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_5_27 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_3_60 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_18_ _04_ _05_ VGND VGND VPWR VPWR net13 sky130_fd_sc_hd__nor2_1
XFILLER_0_8_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_5_39 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_0_2_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
X_17_ net5 _02_ VGND VGND VPWR VPWR _05_ sky130_fd_sc_hd__and2_1
XFILLER_0_3_72 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XPHY_EDGE_ROW_1_Left_11 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_3_51 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
X_16_ net5 _02_ VGND VGND VPWR VPWR _04_ sky130_fd_sc_hd__nor2_1
XTAP_TAPCELL_ROW_4_25 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_0_0_41 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XPHY_EDGE_ROW_3_Right_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_6_73 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
X_15_ _03_ VGND VGND VPWR VPWR net12 sky130_fd_sc_hd__clkbuf_1
XFILLER_0_6_41 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_14_ _01_ _02_ VGND VGND VPWR VPWR _03_ sky130_fd_sc_hd__and2b_1
XFILLER_0_9_41 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_8_9 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_0_21 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_0_6_53 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_0_6_6 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_5_Left_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_9_53 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_0_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_13_ net2 net1 net3 net4 VGND VGND VPWR VPWR _02_ sky130_fd_sc_hd__or4_2
XPHY_EDGE_ROW_7_Right_7 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_7_28 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
X_12_ net2 net1 net3 net4 VGND VGND VPWR VPWR _01_ sky130_fd_sc_hd__o31a_1
XFILLER_0_3_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_9_65 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_0_6_66 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_0_9_22 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
X_11_ net3 _00_ VGND VGND VPWR VPWR net11 sky130_fd_sc_hd__xnor2_1
XFILLER_0_0_57 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_2_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_0_4_6 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_9_Left_19 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_10_ net2 net1 VGND VGND VPWR VPWR _00_ sky130_fd_sc_hd__nor2_1
XFILLER_0_0_47 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_0_69 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_0_9_57 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XPHY_EDGE_ROW_0_Left_10 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_3_15 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_0_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_EDGE_ROW_2_Right_2 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_6_26 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_0_3_27 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XTAP_TAPCELL_ROW_2_23 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
.ends

